US07618961B2
Ethyl [2-({[(E)-2-phenylethenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and beta-styrenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (21.3 mg) with purity >90%. MS (pos) m/z 353.1.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | beta-styrenesulfonyl chloride | C(=CC1=CC=CC=C1)S(=O)(=O)Cl | C8H7ClO2S
product | Ethyl [2-({[(E)-2-phenylethenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | C1(=CC=CC=C1)/C=C/S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C15H16N2O4S2
